US07205306B2
5-Chloro-3-(5,7-dichloro-2,3-dihydro-1H-indol-1-yl)-1-[2-(methylthio)ethyl]-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 413 using 3,5-dichloro-1-[2-(methylthio)ethyl]-2(1H)-pyrazinone and 5,7-dichloroindoline as the starting materials. mp 127–128° C.; 1H NMR (300 MHz, CDCl3): 7.19 (d, J=1.8 Hz, 1 H), 7.12 (d, J=2.2 Hz, 1 H), 6.93 (s, 1 H), 4.36 (t, J=8.1 Hz, 2 H), 4.06 (t, J=7.0 Hz, 2 H), 3.13 (t, J=7.9 Hz, 2 H), 2.89 (t, J=7.0 Hz, 2 H), 2.16 (s, 3 H); HRMS (CI) calcd for C15H14N3OSCl3 (M+): 388.9923; found m/z 388.9920.

reactant | 3,5-dichloro-1-[2-(methylthio)ethyl]-2(1H)-pyrazinone | ClC=1C(N(C=C(N1)Cl)CCSC)=O | C7H8Cl2N2OS
reactant | 5,7-dichloroindoline | ClC=1C=C2CCNC2=C(C1)Cl | C8H7Cl2N
product | 5-Chloro-3-(5,7-dichloro-2,3-dihydro-1H-indol-1-yl)-1-[2-(methylthio)ethyl]-2(1H)-pyrazinone | ClC=1N=C(C(N(C1)CCSC)=O)N1CCC2=CC(=CC(=C12)Cl)Cl | C15H14Cl3N3OS
